US06194406B1
1-(3,5-Dimethoxy-4-hydroxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine
Combine 1-(3,5-dimethoxy-4-methanesulfonyloxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine (0.5 g, 0.5 mmol) and methanol (4 mL). Add potassium carbonate (0.5 g). After 18 hours, add a 1 M aqueous sodium hydroxide solution (1 mL) and extract with dichloromethane. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with dichloromethane/methanol/concentrated aqueous ammonia 6/1/0.1 to give a residue. Combine the residue and dichloromethane (4 mL). Add a solution of hydrochloric acid in dioxane (0.12 mL, 4 M, 0.48 mmol). Warm to ambient temperature. After 1 hour, evaporate in vacuo to give a residue. Triturate with diethyl ether to give a solid. After 1 hour, collect the solid by filtration and dry to give the title compound.

reactant | 1-(3,5-dimethoxy-4-methanesulfonyloxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | 0.5 mmol, 0.5 g | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2CCOCC)C=CC=C3)C=C(C1OS(=O)(=O)C)OC | C38H49N5O7S
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 1 M, 1 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 0.48 mmol, 4 M, 0.12 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | dichloromethane methanol | ClCCl.CO
solvent | methanol | 4 mL | CO | CH4O
product | 1-(3,5-Dimethoxy-4-hydroxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2CCOCC)C=CC=C3)C=C(C1O)OC | C37H47N5O5
